US06262055B1
2,4-dioxo-4-(5-phenethylthiophen-2-yl)butanoic acid
A solution of ethyl 2,4-dioxo-4-(5-phenethylthiophen-2-yl)butanoate (125 mg, 0.378 mmol), aqueous sodium hydroxide (1.2 mL, 1M, 1.2 mmol), and THF (5 mL) in methanol (5 mL) was stirred at rt overnight. The resultant mixture was treated with aq HCl (1.3 mL. 1M), and concentrated under vacuum. The residue was partitioned between brine and dichloromethane. The organic extract was dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum to provide off-white solid. Recrystallization of the solid from a mixture dichloromethane and hexane provided the title compound. 1H NMR (CDCl3) δ 7.72 (d, J=3.1 Hz, 1H), 7.35-7.15 (m, 5H), 6.94 (s, 1H), 6.86 (d, J=3.1 Hz, 1H), 3.22 (d, J=8.1 Hz, 2H), 3.03 (d, J=8.1 Hz, 2H).

reactant | ethyl 2,4-dioxo-4-(5-phenethylthiophen-2-yl)butanoate | 0.378 mmol, 125 mg | O=C(C(=O)OCC)CC(C=1SC(=CC1)CCC1=CC=CC=C1)=O | C18H18O4S
reactant | sodium hydroxide | 1.2 mmol, 1M, 1.2 mL | [OH-].[Na+]
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | HCl | 1M, 1.3 mL | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | 2,4-dioxo-4-(5-phenethylthiophen-2-yl)butanoic acid | O=C(C(=O)O)CC(C=1SC(=CC1)CCC1=CC=CC=C1)=O | C16H14O4S
